US05597922
An adaptation of the method of Harsanyi et al., Liebigs Ann. Chem. 190 (1973), was used. A mixture of 5-chloro-7-trifluoromethyl-3-aminoquinoxalin-2(1H)-one (35 mg, 0.13 mmol) and hydroxylamine hydrochloride (20 mg, 0.29 mmol; Aldrich Co.) in 2 mL of 1-butanol was heated to reflux. The resulting suspension was stirred under reflux for 12 h. The resulting suspension was cool to 25° C., and added H2O (5 mL). A pale yellow precipitate appeared. The mixture was vacuum filtered and the solid was washed with EtOH (5×2 mL) and dried in vacuum at 60° C. overnight to yield 25 mg (69%) of 5-chloro-7-trifluoromethyl-3-(hydroxyimino)-1,4-dihydroquinoxalin-2-one (tentatively named as this since the regiochemistry is not sure) as a pale yellow solid of a new compound: mp dec.>235° C. 1H NMR (300 MHz, DMSO-d6) δ 11.199 (br s, 1H, NH), 10.932 (br s, 1H, NOH), 10.411 (br s, 1H, NH), 7.604 (s, 1H, H-7), 7.317 (s, 1H, H-5). LRMS: 279 (M+, 100%), 249 (50%).

reactant | 5-chloro-7-trifluoromethyl-3-aminoquinoxalin-2(1H)-one | 0.13 mmol, 35 mg | ClC1=C2N=C(C(NC2=CC(=C1)C(F)(F)F)=O)N | C9H5ClF3N3O
reactant | hydroxylamine hydrochloride | 0.29 mmol, 20 mg | Cl.NO
reactant | H2O | 5 mL | O | H2O
solvent | 1-butanol | 2 mL | C(CCC)O | C4H10O
product | 5-chloro-7-trifluoromethyl-3-(hydroxyimino)-1,4-dihydroquinoxalin-2-one | 25 mg, 69% | ClC1=C2NC(C(NC2=CC(=C1)C(F)(F)F)=O)=NO | C9H5ClF3N3O2
